2120-08-07 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-6**] 11:20 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-8-6**] 10:20 PM
   Metoprolol - [**2120-8-6**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-8-7**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 77 (73 - 103) bpm
   BP: 119/54(70) {95/49(62) - 130/80(84)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 96%
   Height: 70 Inch
             Total In:
                                                                    460 mL
                                                                  1,817 mL
   PO:
             TF:
   IVF:
                                                                    460 mL
                                                                  1,817 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     98 mL
   Urine:
   98 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    460 mL
                                                                  1,719 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   9.7 g/dL
   100 mg/dL
   5.4 mg/dL
   22 mEq/L
   5.2 mEq/L
   76 mg/dL
   102 mEq/L
   138 mEq/L
   30.6 %
   15.7 K/uL
        [image002.jpg]
                             [**2120-8-6**]  11:40 PM
                             [**2120-8-7**]  01:16 AM
                             [**2120-8-7**]  03:59 AM
   WBC
   18.1
   15.7
   Hct
   31.4
   30.6
   Plt
   295
   303
   Cr
   5.2
   5.3
   5.4
   TropT
   1.57
   1.53
   Glucose
   146
   132
   100
   Other labs: PT / PTT / INR:18.1/55.5/1.7, CK / CKMB /
   Troponin-T:799/12/1.53, ALT / AST:100/103, Alk Phos / T Bili:380/4.6,
   Amylase / Lipase:239/534, Albumin:2.9 g/dL, LDH:239 IU/L, Ca++:7.5
   mg/dL, Mg++:2.3 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   74 y/o M with CAD/DM who presented with obstructive cholangitis and
   course complicated by troponin leak & acute renal failure now s/p ERCP
   with stenting.
   .
   # Obstructive Cholangitis s/p ERCP with stenting:  Pt with obstructive
   cholestasis & cholangitis s/p stenting & removal of stones from CBD.
   Currently comfortable and sedated post ERCP.  Adm to ICU for monitoring
   post ERCP for worsening abd pain, fevers, hypotension etc.
   -strict NPO with IVF
   -Morphine 2mg prn
   -Zosyn renally dosed
   -f/u GI/ERCP recs
   -IR for cholecystomy drainage procedure in am
   -trend LFTs, amylase/lipase post procedure
   .
   # CAD: Pt with known CAD s/p CABG in 84 & 94 and known positive stress
   MIBI from '[**15**] with inferior wall defect that has been medically managed
   due to CRI.  Pt developped troponin leak with elevated CKs in setting
   of acute illness.  Pt denies any CP & EKGs are essentially unchanged
   from prior with RBBB & terminal deflection in qrs.  Suspect that this
   is demand related damage and apprec Cards consult. CK trending down on
   recent labs.
   - will restart heparin gtt now post ERCP (no sphincterotomy)
   - continue ASA, statin
   - start Metoprolol 7.5mg IV q6hrs, goal HR<80
   - monitor on telemetry, f/u serial EKGs
   - restart isosorbide in am prn
   - f/u am ECHO
   .
   # Acute on chronic renal failure:  Pt presented to OSH with creatinine
   of 3.3 up from baseline of 2.7.  Creatinine continued to rise, it was
   4.3 on transfer and 5.1 on arrival to ICU.  This rapid deterioration in
   function suggests acute insult, no report of hypotension, may be due to
   contrast? vs AIN from [**Last Name (LF) 40**], [**First Name3 (LF) **] also be intravascularly depleted.
   Repeat K at 5.3 and pt having some marginal UOP, dark [**Location (un) **] fluid.
   - send urine lytes
   - monitor creatinine/Potassium, avoid nephrotoxins
   - bolus IVF now & place foley
   - renal U/s in am
   - consider renal consult in am
   .
   # Anemia: Pt with baseline hct in 37-40 range, presented to OSH with
   hct of 34.  Currently 31.4 and hemodynamically stable.
   - monitor hct carefully given h/o GI bleed now on heparin gtt
   - guaic all stools
   # FEN: NPO with IVF of NS
   - monitor lytes
   .
   # Access: 2 PIVs
   .
   # PPx: Heparin IV gtt, Protonix 40mg IV BID, Insulin SS
   .
   # Code: presume FULL
   .
   # Dispo: ICU
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2120-8-6**] 08:55 PM
   18 Gauge - [**2120-8-6**] 09:13 PM
   20 Gauge - [**2120-8-6**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-08-07 12:25:00 Physician Attending Progress Note
Chief Complaint: Cholantitis, s/p ERCP
   HPI:
   24 Hour Events:
   s/p ERCP drainage of pus and stones.
   Overnight, continued with low urine output, responsive to iv fluid
   challenge.
   Remains somewhat somnulant.
   Awaiting percutaneous biliary drain placment per IR.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-6**] 11:20 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-8-6**] 10:20 PM
   Metoprolol - [**2120-8-6**] 10:32 PM
   Morphine Sulfate - [**2120-8-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-8-7**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 86 (73 - 103) bpm
   BP: 130/60(79) {95/49(62) - 147/80(85)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                    460 mL
                                                                  2,682 mL
   PO:
             TF:
   IVF:
                                                                    460 mL
                                                                  2,682 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    223 mL
   Urine:
   223 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    460 mL
                                                                  2,459 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Mildly toxic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: RUQ, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   303 K/uL
   100 mg/dL
   5.4 mg/dL
   22 mEq/L
   5.2 mEq/L
   76 mg/dL
   102 mEq/L
   138 mEq/L
   30.6 %
   15.7 K/uL
        [image002.jpg]
                             [**2120-8-6**]  11:40 PM
                             [**2120-8-7**]  01:16 AM
                             [**2120-8-7**]  03:59 AM
   WBC
   18.1
   15.7
   Hct
   31.4
   30.6
   Plt
   295
   303
   Cr
   5.2
   5.3
   5.4
   TropT
   1.57
   1.53
   Glucose
   146
   132
   100
   Other labs: PT / PTT / INR:18.1/55.5/1.7, CK / CKMB /
   Troponin-T:799/12/1.53, ALT / AST:100/103, Alk Phos / T Bili:380/4.6,
   Amylase / Lipase:239/534, Albumin:2.9 g/dL, LDH:239 IU/L, Ca++:7.5
   mg/dL, Mg++:2.3 mg/dL, PO4:6.7 mg/dL
   Imaging: CXR ([**2120-8-7**])  small lung volumes; clear.
   Assessment and Plan
   Acute cholangitis, sepsis, s/p ERCP decompression of biliary tree.
   CHOLANGITIS -- s/p ERCP, drainage of purulance and multiple stones.
   Continue antimicrobials. [**Month (only) 51**] require additional intervention:
   cholecystectomy vs. percutaneous drainage.
   ACUTE RENAL FAILURE -- suspect ATN in setting of cholangitis/sepsis,
   and 3rd spacing due to pancreatitis.  Maintain vigorous iv fluids.
   Avoid nephrotoxins.  Monitor I/O, esp uo. BUN, creat.
   FLUIDS -- hypovolemia.  Replete.  Monitor I/O, maintain positive fluid
   balance, gauge according to urine output.  Monitor for evidence of
   pulmonary edema.
   ABNORMAL LFTS -- likely due to biliary obstruction.  Monitor serial
   LFT.
   PANCREATITIS, acute -- likely due to biliary stones and ERCP.  Monitor
   serial amylase & lipase.
   CAD -- positive troponins, likley demand ischemia in context of
   sepsis.  Doubt primary event.  Cardiology Consultant following.  d/c
   heparin.  Maintin Hct >28.  beta-blocker.  Consider cardiac echo to
   assess LV fxn.
   COPD -- no active disease.  maintain usual MDI.
   NUTRITIONAL -- NPO pending further evaluation and resolution of ileus.
   COAGULOPATHY -- nutritional and antimicrobials.  Vit K & FFP.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2120-8-6**] 08:55 PM
   18 Gauge - [**2120-8-6**] 09:13 PM
   20 Gauge - [**2120-8-6**] 09:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2120-08-08 11:21:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   HPI:
   24 Hour Events:
 EKG - At [**2120-8-7**] 11:07 AM
 ULTRASOUND - At [**2120-8-7**] 11:07 AM
 PERCUTANEOUS DRAIN INSERTION - At [**2120-8-7**] 05:48 PM
   Percutaneous biliary drainage placed.
   More confused.
   Remains oliguric.
   RUQ U/S demonstrates retained GB stones.
   Denies dyspnea, chest pain.  Still with RUQ tenderness.  RUQ drain in
   place.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-6**] 11:20 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2120-8-7**] 03:30 PM
   Midazolam (Versed) - [**2120-8-7**] 05:00 PM
   Fentanyl - [**2120-8-7**] 05:00 PM
   Pantoprazole (Protonix) - [**2120-8-7**] 10:31 PM
   Metoprolol - [**2120-8-7**] 10:31 PM
   Dextrose 50% - [**2120-8-8**] 12:11 AM
   Heparin Sodium (Prophylaxis) - [**2120-8-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-27**] Mild
   Pain location: abdominal pain
   Flowsheet Data as of  [**2120-8-8**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 89 (76 - 89) bpm
   BP: 135/72(88) {102/45(60) - 140/104(113)} mmHg
   RR: 23 (11 - 27) insp/min
   SpO2: 95%
   Height: 70 Inch
             Total In:
                                                                  5,042 mL
                                                                  1,613 mL
   PO:
             TF:
   IVF:
                                                                  4,992 mL
                                                                  1,588 mL
   Blood products:
   Total out:
                                                                    473 mL
                                                                    475 mL
   Urine:
                                                                    473 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   190 mL
   Balance:
                                                                  4,569 mL
                                                                  1,138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: right quadrants, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: WNL, No(t) Sedated, No(t)
   Paralyzed, Tone: WNL.  +Asterixis
   Labs / Radiology
   9.1 g/dL
   278 K/uL
   53 mg/dL
   6.0 mg/dL
   18 mEq/L
   5.0 mEq/L
   90 mg/dL
   107 mEq/L
   141 mEq/L
   28.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2120-8-6**]  11:40 PM
                             [**2120-8-7**]  01:16 AM
                             [**2120-8-7**]  03:59 AM
                             [**2120-8-8**]  04:23 AM
   WBC
   18.1
   15.7
   10.2
   Hct
   31.4
   30.6
   28.3
   Plt
   295
   303
   278
   Cr
   5.2
   5.3
   5.4
   6.0
   TropT
   1.57
   1.53
   Glucose
   146
   132
   100
   53
   Other labs: PT / PTT / INR:18.4/33.9/1.7, CK / CKMB /
   Troponin-T:799/12/1.53, ALT / AST:71/87, Alk Phos / T Bili:323/3.5,
   Amylase / Lipase:248/381, Albumin:2.8 g/dL, LDH:220 IU/L, Ca++:7.4
   mg/dL, Mg++:2.4 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   Cholangitis, sepsis.
   CHOLANGITIS -- s/p ERCP drainage, s/p percutaneous drain placement.
   Will require surgical resection in future, but poor surgical candidate
   currently.
   SEPSIS -- cholangitis.  Maintining BP currently.  Continue current
   level of care.
   CAD -- troponin leak likely demand ischemia.  Check echo.  Trend
   cardiac enzymes.  Diaphoresis may represent ischemia.
   RENAL FAILURE -- progressive.  Likely ATN.  Check ABG.  Monitor urine
   output, BUN, creatinine.  Will likely need dialysis soon if creatinine
   continues to rise.
   PANCREATITIS -- s/p ERCP vs. gallstone pancreatitis.  Trend amylase &
   lipase.
   FLUIDS -- hypovolemia.   Replete.  [**Month (only) 51**] need central line, then follow
   CVP.
   ANEMIA -- blood loss, related to phlebotomy and
   instrumentation/procedures, and dilutional.
   DELERIUM -- medication (opiates) and evolving uremia.
   DIABETES MELLITUS -- hypoglycemia, likely due to persistent use of oral
   hypoglycemic agents in setting of renal failure.
   COAGULOPATHY -- liver disease, antibiotics, nutrition.  Evolving DIC?
   Provide vit K.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2120-8-6**] 08:55 PM
   18 Gauge - [**2120-8-6**] 09:13 PM
   20 Gauge - [**2120-8-6**] 09:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2120-08-09 09:31:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-8-8**] 08:00 AM
 BLOOD CULTURED - At [**2120-8-8**] 12:05 PM
 URINE CULTURE - At [**2120-8-8**] 12:05 PM
   Remains somewhat confused, delerious.
   Remains with reasonable urine output.
   Morphine for abdominal pain.
   Overall improved today.  Less encephalopathy.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-9**] 03:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-8-8**] 10:00 AM
   Dextrose 50% - [**2120-8-8**] 04:48 PM
   Heparin Sodium (Prophylaxis) - [**2120-8-9**] 12:00 AM
   Metoprolol - [**2120-8-9**] 04:30 AM
   Morphine Sulfate - [**2120-8-9**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-27**] Mild
   Pain location: RUQ
   Flowsheet Data as of  [**2120-8-9**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 73 (69 - 89) bpm
   BP: 129/60(77) {111/50(65) - 163/74(91)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 97%
   Height: 70 Inch
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  3,597 mL
                                                                  1,020 mL
   PO:
   TF:
   IVF:
                                                                  3,172 mL
                                                                  1,020 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,065 mL
                                                                    495 mL
   Urine:
                                                                    825 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
                                                                    240 mL
                                                                     20 mL
   Balance:
                                                                  2,532 mL
                                                                    525 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.25/44/38/19/-7
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, Tender: RUQ, Obese, Percutaneous drain RUQ
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   317 K/uL
   129 mg/dL
   6.1 mg/dL
   19 mEq/L
   4.8 mEq/L
   101 mg/dL
   104 mEq/L
   137 mEq/L
   31.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2120-8-6**]  11:40 PM
                             [**2120-8-7**]  01:16 AM
                             [**2120-8-7**]  03:59 AM
                             [**2120-8-8**]  04:23 AM
                             [**2120-8-8**]  11:49 AM
                             [**2120-8-8**]  04:24 PM
                             [**2120-8-9**]  04:57 AM
   WBC
   18.1
   15.7
   10.2
   10.7
   Hct
   31.4
   30.6
   28.3
   31.0
   31.5
   Plt
   295
   303
   278
   317
   Cr
   5.2
   5.3
   5.4
   6.0
   6.2
   6.1
   TropT
   1.57
   1.53
   1.57
   1.78
   TCO2
   20
   Glucose
   146
   132
   100
   53
   78
   63
   129
   Other labs: PT / PTT / INR:18.4/33.9/1.7, CK / CKMB /
   Troponin-T:833/17/1.78, ALT / AST:53/65, Alk Phos / T Bili:301/2.9,
   Amylase / Lipase:139/188, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL,
   LDH:241 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   Sepsis, acute renal failure.
   SEPSIS -- improved.  Responding to current management.  Cholangitis as
   etiology.
   CHOLANGITIS -- s/p ERCP and percutaneous drainage.  LFT's improving.
   Persistent RUQ pain may reflect GB disease (?gangrenous).  Likely will
   need surgical resection
   CAD -- demand ischemia.  Continue to trend troponins.  Continue ASA,
   beta-blocker.  Hold statin, ACE inhibitor.
   ACUTE RENAL FAILURE -- ATN;  creatitine may have peaked, now with
   plateaued creatinine, increased urine output.  No acute indication of
   acute dialysis.  Would continue to hold, support, allow spontaneous
   recovery.
   ENCEPHALOPATHY -- improved.  Multifactorial (medications, sepsis,
   uremia, LFT abnormality)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-8-8**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2120-08-10 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient tolerated clear liquid diet
   Cardiac enzymes: 2.01>>2.09
   25mg Metoprolol PO bid
   last BM [**8-8**]?
no BM, no gas
   UOP 45-100 -fluids stopped overnight
   mental status: labile, +asterixis
   continues to complain of RUQ pain  -seen by surgery, not acute abdomen,
   no indication for surgery
   -ERCP -no imaging unless change in labs or dvlps fever
   Renal: encephalopathic, increasing BUN -plan for dialysis today
renal
   fellow to place catheter this afternoon
   Nutrition recs: start tube feeds, encourage po intake
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-10**] 04:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-8-10**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-8-10**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 67 (64 - 76) bpm
   BP: 113/48(64) {106/44(61) - 147/104(109)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Height: 70 Inch
             Total In:
                                                                  2,740 mL
                                                                    119 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                  2,530 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    465 mL
   Urine:
                                                                  1,405 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                  1,280 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Gen: Somnolent, difficult to arouse. NAD.
   Lungs: CTAB. No wheezes.
   CV: RRR. No murmurs.
   Abd: Soft, mildly distended. Mild tenderness in RUQ. No obvious
   ascites. No guarding or rebound. +asterixis.
   Extremities: warm, well perfused. No edema.
   Labs / Radiology
   344 K/uL
   9.4 g/dL
   75 mg/dL
   5.7 mg/dL
   18 mEq/L
   4.4 mEq/L
   106 mg/dL
   105 mEq/L
   138 mEq/L
   29.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2120-8-6**]  11:40 PM
                             [**2120-8-7**]  01:16 AM
                             [**2120-8-7**]  03:59 AM
                             [**2120-8-8**]  04:23 AM
                             [**2120-8-8**]  11:49 AM
                             [**2120-8-8**]  04:24 PM
                             [**2120-8-9**]  04:57 AM
                             [**2120-8-10**]  04:20 AM
   WBC
   18.1
   15.7
   10.2
   10.7
   8.6
   Hct
   31.4
   30.6
   28.3
   31.0
   31.5
   29.4
   Plt
   295
   303
   278
   317
   344
   Cr
   5.2
   5.3
   5.4
   6.0
   6.2
   6.1
   5.7
   TropT
   1.57
   1.53
   1.57
   1.78
   2.01
   2.09
   TCO2
   20
   Glucose
   146
   132
   100
   53
   78
   63
   129
   75
   Other labs: PT / PTT / INR:15.2/29.1/1.3, CK / CKMB /
   Troponin-T:198/7/2.09, ALT / AST:44/38, Alk Phos / T Bili:286/2.2,
   Amylase / Lipase:88/97, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   74 y/o M with CAD/DM who presented with obstructive cholangitis and
   course complicated by troponin leak & acute renal failure now s/p ERCP
   with stenting.
   .
   # Obstructive Cholangitis s/p ERCP with stenting:  Pt with obstructive
   cholestasis & cholangitis s/p stenting & removal of stones from CBD.
   Currently comfortable and sedated post ERCP.  Adm to ICU for monitoring
   post ERCP for worsening abd pain, fevers, hypotension etc.
   -clear liquids with IVF
   -Morphine 2mg prn
   -Zosyn renally dosed
day 4
   -f/u GI/ERCP recs
   -trend LFTs, amylase/lipase post procedure
   -serial abdominal exams
   -no BM, no flatus
   .
   # CAD: Pt with known CAD s/p CABG in 84 & 94 and known positive stress
   MIBI from '[**15**] with inferior wall defect that has been medically managed
   due to CRI.  Pt developped troponin leak with elevated CKs in setting
   of acute illness.  Pt denies any CP & EKGs are essentially unchanged
   from prior with RBBB & terminal deflection in qrs.  Suspect that this
   is demand related damage and apprec Cards consult. CK trending down on
   recent labs.
   - will restart heparin gtt now post ERCP (no sphincterotomy)
   - continue ASA, statin
   - start Metoprolol 7.5mg IV q6hrs, goal HR<80
   -cardiac enzymes negative
   - monitor on telemetry, f/u serial EKGs
   - restart isosorbide in am prn
   # Acute on chronic renal failure:  Pt presented to OSH with creatinine
   of 3.3 up from baseline of 2.7.  Creatinine continued to rise, it was
   4.3 on transfer and 5.1 on arrival to ICU.  This rapid deterioration in
   function suggests acute insult, no report of hypotension, may be due to
   contrast? vs AIN from [**Last Name (LF) 40**], [**First Name3 (LF) **] also be intravascularly depleted.
   Repeat K at 5.3 and pt having some marginal UOP, dark [**Location (un) **] fluid.
   - send urine lytes
   - monitor creatinine/Potassium, avoid nephrotoxins
   -encephalopathic: increased BUN
plan for dialysis today
   .
   # Anemia: Pt with baseline hct in 37-40 range, presented to OSH with
   hct of 34.  Currently 31.4 and hemodynamically stable.
   - monitor hct carefully given h/o GI bleed now on heparin gtt
   - guaic all stools
   # FEN: NPO with IVF of NS
   -          monitor lytes
   -          HD today
goal even or negative 500mL
   .
   # Access: 2 PIVs
   .
   # PPx: Heparin IV gtt, Protonix 40mg po BID, Insulin SS
   .
   # Code: presume FULL
   .
   # Dispo: ICU
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-8-6**] 09:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-08-10 10:28:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   HPI:
   24 Hour Events:
   Remains encephalopathic.
   No increased abd pain.
   Received amp D50 for relatively low blood glucose.
   Increased percutantous drainage.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-10**] 04:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-8-10**] 09:23 AM
   Heparin Sodium (Prophylaxis) - [**2120-8-10**] 09:23 AM
   Dextrose 50% - [**2120-8-10**] 09:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-27**] Mild
   Pain location: RUQ
   Flowsheet Data as of  [**2120-8-10**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 73 (64 - 76) bpm
   BP: 132/57(75) {102/44(61) - 147/104(109)} mmHg
   RR: 18 (9 - 20) insp/min
   SpO2: 93%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Height: 70 Inch
             Total In:
                                                                  2,740 mL
                                                                    213 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                  2,530 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    605 mL
   Urine:
                                                                  1,405 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                  1,280 mL
                                                                   -392 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: RuQ, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Somewhat somnulant; +asterixis
   Labs / Radiology
   9.4 g/dL
   344 K/uL
   75 mg/dL
   5.7 mg/dL
   18 mEq/L
   4.4 mEq/L
   106 mg/dL
   105 mEq/L
   138 mEq/L
   29.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2120-8-6**]  11:40 PM
                             [**2120-8-7**]  01:16 AM
                             [**2120-8-7**]  03:59 AM
                             [**2120-8-8**]  04:23 AM
                             [**2120-8-8**]  11:49 AM
                             [**2120-8-8**]  04:24 PM
                             [**2120-8-9**]  04:57 AM
                             [**2120-8-10**]  04:20 AM
   WBC
   18.1
   15.7
   10.2
   10.7
   8.6
   Hct
   31.4
   30.6
   28.3
   31.0
   31.5
   29.4
   Plt
   295
   303
   278
   317
   344
   Cr
   5.2
   5.3
   5.4
   6.0
   6.2
   6.1
   5.7
   TropT
   1.57
   1.53
   1.57
   1.78
   2.01
   2.09
   TCO2
   20
   Glucose
   146
   132
   100
   53
   78
   63
   129
   75
   Other labs: PT / PTT / INR:15.2/29.1/1.3, CK / CKMB /
   Troponin-T:198/7/2.09, ALT / AST:44/38, Alk Phos / T Bili:286/2.2,
   Amylase / Lipase:88/97, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   LDH:197 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   Sepsis, cholangitis.
   SEPSIS
 attributed to cholangitis.  Good response to current
   management.
   CHOLANGITIS
 s/p ERCP and percutaneous drainage.  Continue
   antimicrobials.  [**Month (only) 51**] require cholecystectomy in future.
   RENAL FAILURE
 creatinine continues to slowly improve, and with good
   urine output (althoug somewhat less urine than prior 24 hours).  [**Month (only) 51**]
   require renal replacement therapy for encephalopathy.
   FLUIDS
 volume resussitated.  Monitor I/O, maintain balance.
   CAD
 s/p demand ischemia.  Monitor troponin, EKG.
   ENCEPHALOPATHY
 attributed predominately to uremia, with some
   contribution to sepsis, medications, LFT abnormalities.
   NUTRITION
 NPO.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-8-10**] 09:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2120-08-11 09:37:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2120-8-10**] 02:00 PM
   triple [**Last Name (un) 405**] hd cath placed at bedside by renal fellow.
   Tolerated 1st course of HD yesterday.
   Remains somnulant, but arousable.  Up in Chair.
   No further episodes of hypoglycemia.
   Experiences right toe pain (has h/o gout)
   More alert, answers more quickly.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-11**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-8-10**] 09:23 AM
   Dextrose 50% - [**2120-8-10**] 09:24 AM
   Heparin Sodium (Prophylaxis) - [**2120-8-11**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-27**] Mild
   Pain location: RUQ abdominal
   Flowsheet Data as of  [**2120-8-11**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 83 (63 - 86) bpm
   BP: 159/63(87) {111/41(63) - 174/135(124)} mmHg
   RR: 19 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Height: 70 Inch
             Total In:
                                                                    500 mL
                                                                    103 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                    400 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    880 mL
   Urine:
                                                                  1,535 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
                                                                     60 mL
   Balance:
                                                                 -1,145 mL
                                                                   -777 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: RUQ, Obese, RUQ percutaneous drain
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, asterixis, reduced.
   Encephalopathy improved.
   Labs / Radiology
   9.7 g/dL
   360 K/uL
   117 mg/dL
   4.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   81 mg/dL
   104 mEq/L
   138 mEq/L
   30.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2120-8-6**]  11:40 PM
                             [**2120-8-7**]  01:16 AM
                             [**2120-8-7**]  03:59 AM
                             [**2120-8-8**]  04:23 AM
                             [**2120-8-8**]  11:49 AM
                             [**2120-8-8**]  04:24 PM
                             [**2120-8-9**]  04:57 AM
                             [**2120-8-10**]  04:20 AM
                             [**2120-8-11**]  05:00 AM
   WBC
   18.1
   15.7
   10.2
   10.7
   8.6
   7.5
   Hct
   31.4
   30.6
   28.3
   31.0
   31.5
   29.4
   30.7
   Plt
   295
   303
   278
   [**Telephone/Fax (3) 1141**]
   Cr
   5.2
   5.3
   5.4
   6.0
   6.2
   6.1
   5.7
   4.0
   TropT
   1.57
   1.53
   1.57
   1.78
   2.01
   2.09
   2.10
   TCO2
   20
   Glucose
   146
   132
   100
   53
   78
   63
   129
   75
   117
   Other labs: PT / PTT / INR:15.3/31.3/1.4, CK / CKMB /
   Troponin-T:73/4/2.10, ALT / AST:33/23, Alk Phos / T Bili:272/2.0,
   Amylase / Lipase:82/86, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   LDH:191 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Sepsis, cholangitis.
   SEPSIS -- Resolved.  Monitor VS.  Continue supportive care.  Monitor
   BP, P, HR, SaO2.
   CHOLANGITIS -- s/p ERCP, percutaneous drainage.  Monitor LFT.
   PANCREATITIS -- clinically improved.  Tolerating diet.  Monitor
   amylase/lipase.
   RENAL FAILURE -- initiated HD for uremia (encephalopathy).  Tolerated.
   Work toward dry weight.
   FLUIDS -- desire net negative.  Monitor weight.
   NUTRITIONAL SUPPORT -- advance diet.
   CAD -- demand ischemia.  Improved.
   Right Toe pain -- h/o gout.  Right great toe tenderness.  Rx
   symptomatically.  Avoid nephrotoxins.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-8-10**] 09:22 AM
   Dialysis Catheter - [**2120-8-10**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2120-08-12 10:44:00 Physician Attending Progress Note
Chief Complaint: Feeling better
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                                  History obtained from [**Hospital 15**] Medical records
   Allergies:
   Pneumovax 23 (Injection) (Pneumococcal 23-[**Male First Name (un) **] P-Sac Vac)
   Rash;
   Allopurinol
   Rash;
   Hydralazine
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-8-12**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-8-12**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2120-8-12**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 74 (73 - 91) bpm
   BP: 153/72(91) {134/42(62) - 175/87(107)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 111.3 kg (admission): 105.9 kg
   Height: 70 Inch
             Total In:
                                                                    950 mL
                                                                    367 mL
   PO:
                                                                    600 mL
                                                                    210 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    845 mL
   Urine:
                                                                  1,810 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
                                                                    130 mL
                                                                     30 mL
   Balance:
                                                                   -990 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), soft
   systolic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : rare at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   346 K/uL
   118 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   80 mg/dL
   110 mEq/L
   144 mEq/L
   30.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2120-8-8**]  04:23 AM
                             [**2120-8-8**]  11:49 AM
                             [**2120-8-8**]  04:24 PM
                             [**2120-8-9**]  04:57 AM
                             [**2120-8-10**]  04:20 AM
                             [**2120-8-11**]  05:00 AM
                             [**2120-8-11**]  11:43 AM
                             [**2120-8-11**]  06:54 PM
                             [**2120-8-12**]  12:05 AM
                             [**2120-8-12**]  04:20 AM
   WBC
   10.2
   10.7
   8.6
   7.5
   6.5
   Hct
   28.3
   31.0
   31.5
   29.4
   30.7
   30.3
   Plt
   [**Telephone/Fax (3) 1159**]60
   346
   Cr
   6.0
   6.2
   6.1
   5.7
   4.0
   3.5
   TropT
   1.57
   1.78
   2.01
   2.09
   2.10
   2.17
   1.99
   1.98
   2.06
   TCO2
   20
   Glucose
   53
   78
   63
   129
   75
   117
   118
   Other labs: PT / PTT / INR:14.9/29.6/1.3, CK / CKMB /
   Troponin-T:38/3/2.06, ALT / AST:28/20, Alk Phos / T Bili:264/1.6,
   Amylase / Lipase:78/95, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   LDH:178 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Cholangitis
   Cholecystitis
   Pancreatitis
   Acute renal failure
   Hypertension
   Encephalopathy
   Anemia
   Pleural effusion
   He feels better. Urine output continues to increase and creat is
   trending down w/o dialysis.  Strength is improving.  Still
   substantially volume overloaded. BP is increasing so we will increase
   dose of beta blocker.
   ICU Care
   Nutrition:
   Comments: beginning diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2120-8-10**] 09:22 AM
   Dialysis Catheter - [**2120-8-10**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes